US08685970B2
To a mixture of 2-(3-(trifluoromethyl)phenyl)quinolin-8-amine (200 mg, 0.7 mmol), 3-pyridinecarbaldehyde (150 mg, 1.4 mmol) and acetic acid (84 mg, 1.4 mmol) in methanol (10 mL) was added NaCNBH3 (88 mg, 1.4 mmol) in portions at room temperature, then the reaction was stirred at room temperature for 5 h. The reaction was concentrated in vacuo, the residue was taken up in DCM, The solution was washed with water (1×50 mL), treated with active carbon and Na2SO4, filtered through a silica gel pad, and the pad was washed with CH2Cl2. The organic solutions were combined and concentrated in vacuo, triturated with a mixture of ethyl acetate/pentane and filtered to give N-(pyridin-3-ylmethyl)-2-(3-(trifluoromethyl)phenyl)quinolin-8-amine as a yellow solid (220 mg, yield 83%) MS (ESI) calcd for C22H16F3N3 (m/z): 379.13. found: 380 [M+1].

reactant | 2-(3-(trifluoromethyl)phenyl)quinolin-8-amine | 0.7 mmol, 200 mg | FC(C=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1)N)(F)F | C16H11F3N2
reactant | 3-pyridinecarbaldehyde | 1.4 mmol, 150 mg | N1=CC(=CC=C1)C=O | C6H5NO
reactant | acetic acid | 1.4 mmol, 84 mg | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | 1.4 mmol, 88 mg | [BH3-]C#N.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | N-(pyridin-3-ylmethyl)-2-(3-(trifluoromethyl)phenyl)quinolin-8-amine | 220 mg, yield 83% | N1=CC(=CC=C1)CNC=1C=CC=C2C=CC(=NC12)C1=CC(=CC=C1)C(F)(F)F | C22H16F3N3
